US09428513B2
N′-(3-chloropyrazin-2-yl)-2,2,2-trifluoroacetohydrazide E-1
2-Chloro-3-hydrazinylpyrazine C-1 (15.6 g; 108 mmol) is slurried up in (300 ml) THF and cooled down in an ice bath to −5° C. Trifluoroacetic anhydride (17 ml; 118 mmol) is also dissolved in 300 ml THF and dropped slowly to the first solution. After 1 h most of the THF is evaporated, than a small amount of water is added and the mixture is extracted with DCM. The organic phase is dried over MgSO4 and evaporated to dryness.

reactant | 2-Chloro-3-hydrazinylpyrazine | ClC1=NC=CN=C1NN | C4H5ClN4
reactant | Trifluoroacetic anhydride | 118 mmol, 17 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | N′-(3-chloropyrazin-2-yl)-2,2,2-trifluoroacetohydrazide | ClC=1C(=NC=CN1)NNC(C(F)(F)F)=O | C6H4ClF3N4O
